US06743941B2
Scheme A, Optional Step f: Preparation of 4-[4-[4-(Hydroxydiphenylmethyl)-1-piperidinyl]-1-oxo-butyl]-α,α-dimethylbenzeneacetic acid methyl ester
4-[4-[4-(Hydroxydiphenylmethyl)-1-piperidinyl]-1-hydroxybutyl]-α,α-dimethylbenzeneacetic acid methyl ester (2.05 g, 0.00398 mol) was dissolved in 100 mL of acetone and chilled in an ice-bath. To the solution was added Jones reagent (Prepared via the method of Feiser and Feiser) dropwise until a red color persisted. The reaction was allowed to warm to room temperature and then stirred for 18 hours at ambient temperature. The mixture was concentrated under vacuum to give a green solid. The residue was partitioned between ethyl acetate (150 mL) and water (150 mL). The organic layer was separated, washed with water (3×100 mL), brine (1×100 mL) and treated with MgSO4, filtered and concentrated in vacuo to give alight green solid. Purification via column chromatography yielded 1.25 g (61% yield) of the title compound as a white solid. MH+ 514.6.

reactant | 4-[4-[4-(Hydroxydiphenylmethyl)-1-piperidinyl]-1-hydroxybutyl]-α,α-dimethylbenzeneacetic acid methyl ester | 0.00398 mol, 2.05 g | COC(C(C1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)O)(C)C)=O | C33H41NO4
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 4-[4-[4-(Hydroxydiphenylmethyl)-1-piperidinyl]-1-oxo-butyl]-α,α-dimethylbenzeneacetic acid methyl ester | 1.25 g, 61% yield | COC(C(C1=CC=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O)(C)C)=O | C33H39NO4
